US07541466B2
Step 1) Preparation of 4-Methoxy-3-phenoxybenzonitrile
Phenol and 3-bromo-4-methoxybenzonitrile were subjected to Ullman ether coupling according to the procedure described in synthetic method 9 to afford product as a white solid: 1H NMR (CDCl3) δ 7.43 (dd, J=8.6, 2.0 Hz, 1H), 7.40-7.32 (m, 2H), 7.19-7.11 (m, 2H), 7.03 (d, J=8.6 Hz, 1H), 7.01-6.94 (m, 2H), 3.93 (s, 3H) ppm.

reactant | Phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 3-bromo-4-methoxybenzonitrile | BrC=1C=C(C#N)C=CC1OC | C8H6BrNO
solvent | ether | CCOCC | C4H10O
product | 4-Methoxy-3-phenoxybenzonitrile | COC1=C(C=C(C#N)C=C1)OC1=CC=CC=C1 | C14H11NO2
